US06583141B1
) 1-Chloro-2,5-pyrrolidinedione (0.061 mol; 98%) was added portionwise to a mixture of 3-pyridinecarboxaldehyde, oxime (0.041 mol) and pyridine (0.32 ml) in CHCl3 (300 ml) and this mixture was stirred for 3 hours at 40° C. The mixture was cooled to RT. 2-Propenenitrile (0.041 mol) was added. N,N-diethylethanamine (0.061 mol) was added dropwise while the temperature was kept <35° C. The resulting reaction mixture was stirred overnight at RT. The crude mixture was washed with water, then extracted. The organic layer was separated, dried (Na2SO4), filtered and the solvent was evaporated. The residue was purified by two open column chromatography over silica gel ((I) eluent: CH2Cl2/2-propanone 96/4 and CH2Cl2/CH3OH 96/4; (II) hexane/EtOAc 4/1 and CH2Cl2/2-propanone 96/4). The pure fractions were collected and the solvent was evaporated, yielding 5.3 g (74%) of (±)-4,5-dihydro-3-(3-pyridinyl)-5-isoxazolecarbonitrile (interm. 14)

reactant | 1-Chloro-2,5-pyrrolidinedione | 0.061 mol | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-pyridinecarboxaldehyde | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 2-Propenenitrile | 0.041 mol | C(C=C)#N | C3H3N
reactant | N,N-diethylethanamine | 0.061 mol | C(C)N(CC)CC | C6H15N
reactant | pyridine | 0.32 ml | N1=CC=CC=C1 | C5H5N
solvent | CHCl3 | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | (±)-4,5-dihydro-3-(3-pyridinyl)-5-isoxazolecarbonitrile | 5.3 g, 74% | N1=CC(=CC=C1)C1=NOC(C1)C#N | C9H7N3O
